US09102688B2
4-Methoxy-N-quinolin-8-yl-benzenesulfonamide (Example Compound 7)
In the similar fashion using route 14 general procedure 27, 8-aminoquinoline (200 mg, 1.38 mmol), 4-methoxybenzenesulfonyl chloride (300 mg, 1.3 mmol) and DMAP (cat.) gave the title compound (250 mg, 58%) after purification by column chromatography with DCM/MeOH/NH3 (100-100:1:1 drop).

reactant | 8-aminoquinoline | 1.38 mmol, 200 mg | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | 4-methoxybenzenesulfonyl chloride | 1.3 mmol, 300 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-Methoxy-N-quinolin-8-yl-benzenesulfonamide | 250 mg, 58% | COC1=CC=C(C=C1)S(=O)(=O)NC=1C=CC=C2C=CC=NC12 | C16H14N2O3S
